US08871758B2
((S)-1-Phenylethyl)-(5,5,6,6-tetramethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-yl)amine
A mixture of 194 mg of 2-(2,6-difluorophenoxy)-5,5,6,6-tetramethyl-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide and 737 mg of (S)-1-phenylethylamine was stirred at room temperature for 16 hours and then purified in a purification laboratory by means of preparative HPLC. The combined product-containing fractions were alkalized with 25% aqueous ammonia solution and extracted three times with 30 ml of ethyl acetate, and the combined organic phases were dried over MgSO4 and concentrated by rotary evaporation. This gave the product (96 mg) with a molecular weight of 310.4 g/mol (C15H22N2O3S); MS (ESI): m/e=311 (M+H+).

reactant | 2-(2,6-difluorophenoxy)-5,5,6,6-tetramethyl-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide | 194 mg | FC1=C(OC=2OC(C(S(N2)(=O)=O)(C)C)(C)C)C(=CC=C1)F | C13H15F2NO4S
reactant | (S)-1-phenylethylamine | 737 mg | C1(=CC=CC=C1)[C@H](C)N | C8H11N
product | ((S)-1-Phenylethyl)-(5,5,6,6-tetramethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-yl)amine | 96 mg | C1(=CC=CC=C1)[C@H](C)NC=1OC(C(S(N1)(=O)=O)(C)C)(C)C | C15H22N2O3S
